US05712225
N-(2,4-Dichlorophenyl)tetrahydro-4H-1,3,4-oxadiazine-4-carbothioamide
1.72 g (6.20 mmol) N-amino-N-(2-hydroxyethyl)-N'-(2,4-dichlorophenyl)thiourea was suspended in 40 mL methylene chloride. 0.52 g (37% aqueous, 6.4 mmol) formaldehyde and a small quantity of p-toluenesulfonic acid were added before the reaction mixture was heated for 17 h in a Dean-Stark apparatus. The solvent was then removed and the desired product isolated.

reactant | N-amino-N-(2-hydroxyethyl)-N'-(2,4-dichlorophenyl)thiourea | 6.20 mmol, 1.72 g | NN(C(=S)NC1=C(C=C(C=C1)Cl)Cl)CCO | C9H11Cl2N3OS
reactant | formaldehyde | 6.4 mmol, 0.52 g | C=O | CH2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-Dichlorophenyl)tetrahydro-4H-1,3,4-oxadiazine-4-carbothioamide | ClC1=C(C=CC(=C1)Cl)NC(=S)N1NCOCC1 | C10H11Cl2N3OS
